US08791107B2
PREPARATION x5: 2-chloro-5-(cyclopropylmethyl)-5,6,6a,7,9,10-hexahydro-[1,4]oxazino[3,4-h]pteridine
2-Chloro-5,6,6a,7,9,10-hexahydro-[1,4]oxazino[3,4-h]pteridine (PREPARATION x2, 200 mg, 0.882 mmol) was dissolved in DMSO (4.4 mL). Sodium tert-butoxide (102 mg, 1.059 mmol) was then added to give a brown solution. After 5 minutes, (bromomethyl)cyclopropane (86 μL, 0.882 mmol) was added dropwise. The reaction mixture was stirred for 2 hours at room temperature then quenched with aqueous saturated NH4Cl. The reaction mixture was diluted with ethyl acetate and washed with aqueous saturated NH4Cl (3×25 mL). The combined organic layers were dried over MgSO4, filtered, and concentrated in vacuo. The crude product was loaded onto an ISCO® silica gel cartridge (12 g) and eluted with an ethyl acetate/hexane gradient. The product was collected and concentrated in vacuo to afford the title compound as a yellow oil (100 mg, 40%). ESI-MS m/z [M+H]+ calc'd for C13H17ClN4O, 281.1. found 281.3.

reactant | 2-Chloro-5,6,6a,7,9,10-hexahydro-[1,4]oxazino[3,4-h]pteridine | 0.882 mmol, 200 mg | ClC1=NC=2N3C(CNC2C=N1)COCC3 | C9H11ClN4O
reactant | Sodium tert-butoxide | 1.059 mmol, 102 mg | CC(C)([O-])C.[Na+]
reactant | (bromomethyl)cyclopropane | 0.882 mmol, 86 μL | BrCC1CC1 | C4H7Br
solvent | DMSO | 4.4 mL | CS(=O)C | C2H6OS
product | 2-chloro-5-(cyclopropylmethyl)-5,6,6a,7,9,10-hexahydro-[1,4]oxazino[3,4-h]pteridine | 100 mg, 40% | ClC1=NC=2N3C(CN(C2C=N1)CC1CC1)COCC3 | C13H17ClN4O
